US04299769
1-[3-Acetylthio-3-(5-chloro-2-thenoyl)-2-methylpropionyl]-L-proline
Bromination of the [S]-1-[3-(5-chloro-2-thenoyl)-2-methylpropionyl]-L-proline and reaction of the brominated product with sodium thioacetate in acetonitrile gives a mixture of the [R-(R*,S*)] and [R-(R*,R*)] isomers of the product of the Example as a glass.

reactant | [S]-1-[3-(5-chloro-2-thenoyl)-2-methylpropionyl]-L-proline | ClC1=CC=C(S1)C(=O)CC(C(=O)N1[C@H](C(=O)O)CCC1)C | C14H16ClNO4S
reactant | sodium thioacetate | C(C)(=S)[O-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[3-Acetylthio-3-(5-chloro-2-thenoyl)-2-methylpropionyl]-L-proline | C(C)(=O)SC(C(C(=O)N1[C@H](C(=O)O)CCC1)C)C(C1=CC=C(S1)Cl)=O | C16H18ClNO5S2
